US09290459B1
Step 1: tert-Butyl (2-Bromo-4-cyanophenyl)(phenylsulfonyl)methylcarbamate
Formic acid (3.9 mL, 104 mmol) is added to a solution of tert-butyl carbamate (1.90 g, 16.2 mmol), 2-bromo-4-cyanobenzaldehyde (3.41 g, 16.2 mmol) and sodium benzenesulfinate (2.67 g, 16.2 mmol) in a mixture of tetrahydrofuran (7.0 mL) and water (60 mL), and the mixture is stirred at room temperature for 6 days. Water (180 mL) is added, and the precipitate is filtered and washed with water. The precipitate is treated with tert-butyl methyl ether (30 mL), and the mixture is stirred for 30 min. The precipitate is filtered, washed with tert-butyl methyl ether, and dried. Yield: 3.35 g. ESI mass spectrum: [(79Br)-M+H]+=451, [(81Br)-M+H]+=453; Retention time HPLC: 0.66 min (X012_S01).

reactant | Formic acid | 104 mmol, 3.9 mL | C(=O)O | CH2O2
reactant | tert-butyl carbamate | 16.2 mmol, 1.90 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 2-bromo-4-cyanobenzaldehyde | 16.2 mmol, 3.41 g | BrC1=C(C=O)C=CC(=C1)C#N | C8H4BrNO
reactant | sodium benzenesulfinate | 16.2 mmol, 2.67 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | Water | 180 mL | O | H2O
product | tert-Butyl (2-Bromo-4-cyanophenyl)(phenylsulfonyl)methylcarbamate | BrC1=C(C=CC(=C1)C#N)N(C(OC(C)(C)C)=O)CS(=O)(=O)C1=CC=CC=C1 | C19H19BrN2O4S
